US05487845
0.01 mol of TMEDA is added to a solution of 0.01 mol of 4-(trans-4-n-propylcyclohexyl)-4'-trifluoromethylbiphenyl in 10 ml of n-hexane. At 0°-5° C. 0.01 mol of n-BuLi is added, and stirring at RT is continued for another half an hour and at 40° C. for half an hour. The mixture is then cooled to 0° C., 20 ml of THF are added, and the fluorinating agent 1-fluoro-2,4,6-trimethylpyridinium triflate (in THF) is added dropwise at this temperature according to scheme 21. Extractive work-up and, as is customary, chromatography and crystallization give 4-(trans-4-n-propylcyclohexyl)-3'-fluoro-4'-trifluoromethylbiphenyl.

reactant | TMEDA | 0.01 mol | CN(C)CCN(C)C | C6H16N2
reactant | 4-(trans-4-n-propylcyclohexyl)-4'-trifluoromethylbiphenyl | 0.01 mol | C(CC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C22H25F3
reactant | n-BuLi | 0.01 mol | [Li]CCCC
reactant | 1-fluoro-2,4,6-trimethylpyridinium triflate | [O-]S(=O)(=O)C(F)(F)F.F[N+]1=C(C=C(C=C1C)C)C
solvent | n-hexane | 10 ml | CCCCCC | C6H14
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-(trans-4-n-propylcyclohexyl)-3'-fluoro-4'-trifluoromethylbiphenyl | C(CC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC(=C(C=C1)C(F)(F)F)F | C22H24F4
